US08022073B2
A mixture of 0.86 g of 4-(4-chlorophenyl)-3-(2,5-dimethyl-4-thiazolyl)-5-hydroxy-5-methyl-2(5H)-furanone, 0.18 g of hydrazine monohydrate and 8 ml of 1-butanol was heated under reflux for 5 hours. The reaction mixture was cooled to 0° C. The deposited solid was collected by filtration. The solid was washed with a mixed solvent of hexane and t-butyl methyl ether, and dried under reduced pressure to obtain 0.54 g of 5-(4-chlorophenyl)-4-(2,5-dimethyl-4-thiazolyl)-6-methyl-2H-pyridazin-3-one.

reactant | 4-(4-chlorophenyl)-3-(2,5-dimethyl-4-thiazolyl)-5-hydroxy-5-methyl-2(5H)-furanone | 0.86 g | ClC1=CC=C(C=C1)C1=C(C(OC1(C)O)=O)C=1N=C(SC1C)C | C16H14ClNO3S
reactant | hydrazine monohydrate | 0.18 g | O.NN
solvent | 1-butanol | 8 ml | C(CCC)O | C4H10O
product | 5-(4-chlorophenyl)-4-(2,5-dimethyl-4-thiazolyl)-6-methyl-2H-pyridazin-3-one | 0.54 g | ClC1=CC=C(C=C1)C1=C(C(NN=C1C)=O)C=1N=C(SC1C)C | C16H14ClN3OS
